US07074801B1
(5-Chloropyridin-2-yl)-(2-nitrophenyl)amine
9.9 g potassium hydroxide powder and 5.0 g 1-fluoro-2-nitrobenzene were added little by little in this order to a solution of 5.8 g 5-chloro-2-aminopyridine in dimethyl sulfoxide (100 mL), and the mixture was stirred at 20° C. for 4 hours under nitrogen atmosphere. The reaction solution was poured into iced water and extracted with ethyl acetate. The organic layer was washed with water and brine and dried over sodium sulfate. The solvent was evaporated, and the residue was purified by NH silica gel column chromatography (ethyl acetate/hexane) and recrystallized from ethyl acetate/hexane, to give 6.02 g of the title compound as orange crystals.

reactant | potassium hydroxide | 9.9 g | [OH-].[K+]
reactant | 1-fluoro-2-nitrobenzene | 5.0 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 5-chloro-2-aminopyridine | 5.8 g | ClC=1C=CC(=NC1)N | C5H5ClN2
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | (5-Chloropyridin-2-yl)-(2-nitrophenyl)amine | 6.02 g | ClC=1C=CC(=NC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C11H8ClN3O2
